US06878702B2
(+) 5-(4-aminophenyl)-6-methyl-3,6-dihydro-[1,3,4]-thiadiazin-2-one (1.34 g, 6 mmol) was dissolved in water (23 ml) and 6 N hydrochloric acid (4.5 ml). The solution was stirred and cooled. A cooled solution of sodiumnitrite (0.5 g) in water (5 ml) was added. Then a cooled solution of malononitrile (0.9 g) in t-butanol (54 ml) was added. In the end to the solution was added a cooled solution of sodium acetate (5.4 g) diluted in water (40 ml). The reaction mixture was stirred under cooling (0° C.) for 3 hours. After stirring the crystalline product was filtered and washed with water, yielding (+)-[[4-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)phenyl]hydrazono]propanedinitrile as a crystalline solid (1.7 g) with optical purity of 100%, chromatografic purity 99.3%, m.p. 125-128° C., [a]D25=+1002°.

reactant | (+) 5-(4-aminophenyl)-6-methyl-3,6-dihydro-[1,3,4]-thiadiazin-2-one | 6 mmol, 1.34 g | NC1=CC=C(C=C1)C1=NNC(SC1C)=O | C10H11N3OS
reactant | sodiumnitrite | 0.5 g | N(=O)[O-].[Na+]
reactant | malononitrile | 0.9 g | C(CC#N)#N | C3H2N2
reactant | sodium acetate | 5.4 g | C(C)(=O)[O-].[Na+]
solvent | water | 23 ml | O | H2O
solvent | hydrochloric acid | 6 N, 4.5 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | t-butanol | 54 ml | C(C)(C)(C)O | C4H10O
solvent | water | 40 ml | O | H2O
product | (+)-[[4-(3,6-dihydro-6-methyl-2-oxo-2H-1,3,4-thiadiazin-5-yl)phenyl]hydrazono]propanedinitrile | 1.7 g | CC1C(=NNC(S1)=O)C1=CC=C(C=C1)NN=C(C#N)C#N | C13H10N6OS
